Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
LLQ abd pain
 
Major Surgical or Invasive Procedure:
Laparoscopic cholecystectomy and lysis of dense adhesions right 
upper quadrant.

 
History of Present Illness:
___ p/w LLQ pain since the evening prior to presentation. 
Patient states that she has had ___ episodes of periumbilical 
and
LLQ pain over the last ___ year.  The most recent presentation is
the worst, she c/o ___ dull constant, non-radiating pain that
prevented her from sleeping.  The pain was unrelieved by
alkazelter which had been effective in the past. + nausea w/ dry
heaves. BM yesterday night ws of narrow caliber formed stool, no
hematoschezia or melena.  Her last colonoscopy was ___ and was
normal.  Denies any recent unintentional weight loss.
 
Past Medical History:
HTN
 
Social History:
___
Family History:
___
 
Physical Exam:
Upon admission:

VS: 98.2  78  145/82  20  99%RA
CV: RRR
Lungs: CTAB
Abd: soft,tender to moderate palpation LLQ and suprapubic,tender
to mod palpation RUQ negative ___
BS

 
Pertinent Results:
___ 12:35PM BLOOD WBC-10.9# RBC-4.34 Hgb-13.2 Hct-36.0 
MCV-83 MCH-30.3 MCHC-36.6* RDW-14.7 Plt ___
___ 06:10AM BLOOD WBC-12.8* RBC-3.42* Hgb-10.6* Hct-28.5* 
MCV-84 MCH-30.9 MCHC-37.1* RDW-14.4 Plt ___
___ 06:05AM BLOOD WBC-11.0 RBC-3.32* Hgb-10.1* Hct-27.9* 
MCV-84 MCH-30.5 MCHC-36.2* RDW-14.6 Plt ___
___ 12:35PM BLOOD Glucose-132* UreaN-15 Creat-0.8 Na-141 
K-3.1* Cl-101 HCO3-30 AnGap-13
___ 06:45AM BLOOD K-3.2*
___ 06:10AM BLOOD Glucose-105 UreaN-10 Creat-0.7 Na-139 
K-3.8 Cl-107 HCO3-26 AnGap-10
___ 06:05AM BLOOD Glucose-92 UreaN-8 Creat-0.7 Na-140 K-3.5 
Cl-105 HCO3-25 AnGap-14
___ 12:35PM BLOOD ALT-18 AST-23 AlkPhos-74 TotBili-0.3
___ 12:35PM BLOOD Albumin-4.6 Phos-3.3 Mg-2.0
___ 06:45AM BLOOD Mg-1.7
___ 06:10AM BLOOD Calcium-8.2* Phos-1.1*# Mg-2.5
___ 06:05AM BLOOD Calcium-8.3* Phos-2.0* Mg-2.0

RUQ u/s ___
IMPRESSION: 
1. Vascular mass at the gallbladder neck concerning for 
neoplasm, such as 
gallbladder carcinoma, cholangiocarcinoma, or an invading 
hepatic malignancy. 
2. Two non-mobile stones in the dependent portion of the 
gallbladder. No 
evidence of cholecystitis.

CT Abd/Pelvis ___
IMPRESSION: 
1. Acute cholecystitis. Previously noted vascular mass within 
the 
gallbladder neck has no CT correlate. 
2. Fibroid uterus. 
3. Pelvic varices. 
4. Pancreas divisum. 

CXR ___:
IMPRESSION: No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
Mrs. ___ was admitted to ___ and appropriate imaging 
demonstratd a diagnosis of acute cholecystitis. She was taken to 
the operating room for a cholecystectomy and she tolerated the 
procedure well. She recovered in the PACU without acute events.

Her foley catheter was removed. She began tolerating a clear 
liquid diet on POD 0 and was advanced to a regular diet on POD 
1. Her pain was well controlled with IV and then PO pain meds.

She was ambulating well on POD 1.

She was discharged home on POD 2.
 
Medications on Admission:
HCTZ 12.5 mg QD
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*20 Tablet(s)* Refills:*0*
3. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.  
5. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholecystitis.

 
Discharge Condition:
Good, ambulating, tolerating PO, pain controlled.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
Other:
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
Incision Care:
-Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment
 
Followup Instructions:
___